### PR TITLE
[Merged by Bors] - feat: characterize when projections are almost 0 or almost id

### PR DESCRIPTION
**Pull request by ADedecker**
in the sense of `LinearMap.FiniteRangeSetoid`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Module/LinearMap/FiniteRange.lean [hunk 1]
```diff
@@ -432,6 +456,14 @@ lemma IsQuasiInverse.of_comp_right {u : V →ₗ[K] V₂} {v : V₂ →ₗ[K] V
     (w ∘ₗ v).IsQuasiInverse u :=
   ⟨hw.1, IsRightQuasiInverse.of_comp_right hv.1 hw.2⟩
 
+lemma isQuasiInverse_subtype_projectionOnto {S T : Submodule K V} [IsNoetherian K T]
+    (S_compl_T : IsCompl S T) :
+    IsQuasiInverse S.subtype (S.projectionOnto T S_compl_T) := by
+  constructor
+  · grw [IsLeftQuasiInverse, ← FiniteRangeSetoid.projection_equiv_id S_compl_T]
+    rfl
+  · simp [IsRightQuasiInverse, projectionOnto_comp_subtype]
```
Comment (themathqueen) [inline Mathlib/Algebra/Module/LinearMap/FiniteRange.lean]:
```suggestion
    IsQuasiInverse S.subtype (S.projectionOnto T S_compl_T) where
  left := by grw [IsLeftQuasiInverse, ← FiniteRangeSetoid.projection_equiv_id S_compl_T, projection]
  right := by simp [IsRightQuasiInverse, projectionOnto_comp_subtype]
```

File: Mathlib/Algebra/Module/LinearMap/FiniteRange.lean [hunk 2]
```diff
@@ -269,6 +276,23 @@ lemma equiv_comp {u v : V →ₗ[K] V₂} {u' v' : V₂ →ₗ[K] V₃} (h : u 
     u' ∘ₗ u ≈ v' ∘ₗ v := by
   grw [equiv_comp_right h', equiv_comp_left h]
 
+lemma projection_equiv_zero_iff_isNoetherian {S T : Submodule K V} (S_compl_T : IsCompl S T) :
```
Comment (themathqueen) [inline Mathlib/Algebra/Module/LinearMap/FiniteRange.lean]: Is it obvious that `projection` in the name is talking about `Submodule.projection` and not `LinearMap.projection`, or should this be called something like `submoduleProjection_equiv_zero_iff_isNoetherian`?

Same question for the rest of the lemmas.

Comment (themathqueen) [reply Mathlib/Algebra/Module/LinearMap/FiniteRange.lean]: Nevermind, there's no LinearMap.projection, I was thinking of LinearMap.proj

File: Mathlib/Algebra/Module/LinearMap/FiniteRange.lean [hunk 3]
```diff
@@ -269,6 +276,23 @@ lemma equiv_comp {u v : V →ₗ[K] V₂} {u' v' : V₂ →ₗ[K] V₃} (h : u 
...
+    S.projection T S_compl_T ≈ 0 ↔ IsNoetherian K S := by
+  rw [equiv_zero_iff_hasNoetherianRange, hasNoetherianRange_iff_range, range_projection]
+
+lemma projection_equiv_zero {S T : Submodule K V} [IsNoetherian K S] (S_compl_T : IsCompl S T) :
```
Comment (themathqueen) [inline Mathlib/Algebra/Module/LinearMap/FiniteRange.lean]: why `S_compl_T` and not just `hST` like the rest of the files?
```suggestion
lemma projection_equiv_zero {S T : Submodule K V} [IsNoetherian K S] (hST : IsCompl S T) :
```

File: Mathlib/Algebra/Module/LinearMap/FiniteRange.lean (hunk 1 above)
Comment (ADedecker) [reply Mathlib/Algebra/Module/LinearMap/FiniteRange.lean]: I'm not a big fan of using `where` here, I think it reads a bit weird (in the same way, I'm not a fan of using to prove iffs), so unless you disagree a lot I'd prefer to keep the same skeleton. But I took your golf to remove the `rfl`.

File: Mathlib/Data/Setoid/Basic.lean [hunk 4]
```diff
@@ -69,6 +69,9 @@ theorem trans' (r : Setoid α) : ∀ {x y z}, r x y → r y z → r x z := r.ise
 theorem comm' (s : Setoid α) {x y} : s x y ↔ s y x :=
   ⟨s.symm', s.symm'⟩
 
+theorem comm [Setoid α] {x y : α} : x ≈ y ↔ y ≈ x :=
```
Comment (themathqueen) [inline Mathlib/Data/Setoid/Basic.lean:72]: I think this should live where [Setoid.refl](https://leanprover-community.github.io/mathlib4_docs/Init/Core.html#Setoid.refl) and `.trans` live (so outside Mathlib).

Comment (ADedecker) [reply Mathlib/Data/Setoid/Basic.lean:72]: I agree, but that's in core which is not very welcoming to external contributors, and I'd rather not have to wait until the next toolchain bump...

**Review by themathqueen — COMMENTED** [review]
Thanks!

maintainer merge

**Review by ocfnash — APPROVED** [review]
Thanks!

bors merge
